US07648986B2
Step 2: Preparation of N-(1H-indazol-5-yl)-N-(5-{4-[(2-pyridinylamino)methyl]-phenyl}-1-benzothien-7-yl)amine
To a mixture of N-(2-chlorothieno[3,2-d]pyrimidin-4-yl)-N-(1H-indazol-5-yl)amine (50 mg, 0.16 mmol), Na2CO3(aq) (2 M, 1.0 mL) in butanol/toluene (1:1, 4 mL) a stream of argon was bubbled through for 15 min. To the mixture was added 4-[(2-pyridinylamino)methyl]phenylboronic acid (0.15 g, 0.66 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.06 g, 0.08 mmol) in a single portion. The resulting reaction mixture was heated to reflux for 24 h. On cooling, the solution was concentrated, taken up in EtOAc and washed with water. The organic layers were dried over anhyd sodium sulfate and concentrated in vacuo. The crude product was purified by silica gel column chromatography (gradient from 20% to 80% EtOAc/hexane) to give the product (25 mg). HPLC/MS: (M+H)+ 450.1 m/z. Retention time (LC-MS)=min. 1H NMR (CD3OD): 8.31 (2H, d); 8.11 (1H, s); 8.05 (1H, s); 7.96(1H, d); 7.91 (1H, d); 7.71(1H, d); 7.58 (1H, d); 7.47(4H, m); 6.61(2H, m); 4.55 (2H, s).

reactant | N-(2-chlorothieno[3,2-d]pyrimidin-4-yl)-N-(1H-indazol-5-yl)amine | 0.16 mmol, 50 mg | ClC=1N=C(C2=C(N1)C=CS2)NC=2C=C1C=NNC1=CC2 | C13H8ClN5S
reactant | Na2CO3 | 2 M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-[(2-pyridinylamino)methyl]phenylboronic acid | 0.66 mmol, 0.15 g | N1=C(C=CC=C1)NCC1=CC=C(C=C1)B(O)O | C12H13BN2O2
reactant | butanol toluene | 4 mL | C(CCC)O.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(1H-indazol-5-yl)-N-(5-{4-[(2-pyridinylamino)methyl]-phenyl}-1-benzothien-7-yl)amine | 25 mg | N1N=CC2=CC(=CC=C12)NC1=CC(=CC=2C=CSC21)C2=CC=C(C=C2)CNC2=NC=CC=C2 | C27H21N5S
